US08222416B2
To a mixture of 1-benzenesulfonyl-2-[2-cyclopentyl-1-(toluene-4-sulfonyloxy)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (0.9 g, 1.55 mmol), 4-(methanesulfonyl)phenylboronic acid (930 mg, 4.6 mmol) and dichlorobis(triphenylphosphine)palladium (II) (110 mg, 0.15 mmol) in dioxane (8 mL) was added an aqueous sodium carbonate solution (2 M, 2.3 mL). The resulting mixture was subjected to microwave irradiation for 120 min at 100° C. The mixture was diluted with ethyl acetate (150 mL), washed with a saturated aqueous sodium bicarbonate solution (2×30 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 50% ethyl acetate/hexanes) afforded 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (815 mg, 73%) as a white solid: LC/MS m/e calcd for C29H28N2O6S2 [M+H]+ 565.68, observed 565.1.

reactant | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(toluene-4-sulfonyloxy)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 1.55 mmol, 0.9 g | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=CC=C2 | C29H28N2O7S2
reactant | 4-(methanesulfonyl)phenylboronic acid | 4.6 mmol, 930 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 2 M, 2.3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.15 mmol, 110 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 815 mg, 73% | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C)S(=O)(=O)C2=CC=CC=C2 | C29H28N2O6S2
